US04584394
Preparation of vinylmethyldibenzoyloxysilane
705 g (5 moles) of vinylmethyldichlorosilane and 1000 ml of hexane are placed in the apparatus of Example 1. The reaction with 1245 g of benzoic acid (=10.2 moles) is performed as described under Example 1; the distillation of the raw product is performed in the same manner. At a pressure of 0.5 mbar and a head temperature of 141° C., 1295 g (4.15 moles) of a colorless liquid is distilled off. The yield amounts to 83%.

reactant | vinylmethyldichlorosilane | 5 moles, 705 g | C(=C)C[SiH](Cl)Cl | C3H6Cl2Si
reactant | benzoic acid | 10.2 moles, 1245 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
solvent | hexane | 1000 ml | CCCCCC | C6H14
product | vinylmethyldibenzoyloxysilane | C(=C)C[SiH](OC(C1=CC=CC=C1)=O)OC(C1=CC=CC=C1)=O | C17H16O4Si
